US08486966B2
5-Fluoropyridine-2-carbonitrile
2-Bromo-5-fluoropyridine (93.0 g, 528 mmol), Zn dust (8.29 g, 127 mmol), zinc cyanide (40.3 g, 343 mmol), 1,1′-bis(diphenylphosphino)ferrocene (11.7 g, 21.1 mmol) and Pd2dba3 (9.68 g, 10.6 mmol) in anhydrous DMAc (300 ml) was heated at 95° C. for 3 hours. After cooled to room temperature, brine (100 ml) and ether (500 ml) was added. The solid formed was removed by filtration and washed with ether (300 ml). The organic layer was separated, washed with brine (200 ml) and dried over sodium sulfate, and concentrated. After removal of solvent, the resulted residue was purified by column chromatography (hexane-DCM=1:1) to give the title compound as a white solid (49 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ 8.82 (d, J=2.8 Hz, 1H), 8.21 (dd, J=4.4 and 8.8 Hz, 1H), 8.05 (dd, J=2.8 and 8.8 Hz, 1H).

reactant | 2-Bromo-5-fluoropyridine | 528 mmol, 93.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | ether | 500 ml | CCOCC | C4H10O
reactant | DMAc | 300 ml | CC(=O)N(C)C | C4H9NO
solvent | brine | 100 ml | [Cl-].[Na+].O
catalyst | Zn | 127 mmol, 8.29 g | [Zn] | Zn
catalyst | zinc cyanide | 343 mmol, 40.3 g | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 21.1 mmol, 11.7 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Pd2dba3 | 10.6 mmol, 9.68 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Fluoropyridine-2-carbonitrile | 49 g, 72% | FC=1C=CC(=NC1)C#N | C6H3FN2
